US07964293B2
Into a flask, 2.2 g of 1,4-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolanyl)-naphthalene, 2.8 g of 5-bromo-2,3′-bipyridine, 450 mg of tris(dibenzylieneacetone)dipalladium(0), 280 mg of tricyclohexyl phosphine 9.6 g of tripotassium phosphate, and 50 ml of toluene were put, and the solution was stirred at reflux temperature for 16 hours under argon atmosphere. After heating, the reaction liquid was cooled to room temperature, and washed by a saturated sodium chloride aqueous solution. The organic layer was concentrated in an evaporator, and the concentrates were purified by activated alumina column chromatography. The concentrates were further washed by ethyl acetate, and then recrystallized in toluene, and thus 250 mg of 1,4-bis(2,3′-bipyridine-5-yl)-naphthalene was obtained.

reactant | 1,4-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolanyl)-naphthalene | 2.2 g | CC1(OB(OC1(C)C)C1=CC=C(C2=CC=CC=C12)B1OC(C(O1)(C)C)(C)C)C | C22H30B2O4
reactant | 5-bromo-2,3′-bipyridine | 2.8 g | BrC=1C=CC(=NC1)C=1C=NC=CC1 | C10H7BrN2
reactant | tricyclohexyl phosphine | 280 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | tripotassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-bis(2,3′-bipyridine-5-yl)-naphthalene | 250 mg | N1=C(C=CC(=C1)C1=CC=C(C2=CC=CC=C12)C=1C=CC(=NC1)C=1C=NC=CC1)C=1C=NC=CC1 | C30H20N4
